US07230007B2
d) Methyl 1-(4-(methylsulfonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate
0.038 g (0.2 mmol) of cuprous iodide, 0.891 g (4.2 mmol) of potassium phosphate, 0.47 g (2 mmol) of 4-bromophenyl methyl sulfone and 0.24 cm3 (2 mmol) of trans-1,2-cyclohexanediamine were added, under an argon atmosphere, to 0.405 g (2.3 mmol) of methyl 1H-pyrrolo[2,3-b]pyridine-3-carboxylate in solution in 0.3 cm3 of dodecane and 6 cm3 of dioxane. After stirring at a temperature in the region of 110° C. for 48 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which was taken up in 20 cm3 of dichloromethane. The resulting organic solution was washed with 20 cm3 of 0.1N hydrochloric acid and filtered, then dried over magnesium sulfate and concentrated to dryness under reduced pressure (2.7 kPa). Methyl 1-(4-(methylsulfonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate, characterized by LC/MS (m/z 331 [MH]+), was thus obtained, which was used directly in the following stage.

reactant | potassium phosphate | 4.2 mmol, 0.891 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-bromophenyl methyl sulfone | 2 mmol, 0.47 g | CS(=O)(=O)C1=CC=C(C=C1)Br | C7H7BrO2S
reactant | trans-1,2-cyclohexanediamine | 2 mmol, 0.24 cm3 | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | methyl 1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 2.3 mmol, 0.405 g | N1C=C(C=2C1=NC=CC2)C(=O)OC | C9H8N2O2
solvent | dodecane | 0.3 cm3 | CCCCCCCCCCCC | C12H26
solvent | dioxane | 6 cm3 | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | Methyl 1-(4-(methylsulfonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C=C(C=2C1=NC=CC2)C(=O)OC | C16H14N2O4S
